resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.017278
R2 0 n2 0.985567
R3 0 n4 0.997753
R4 n1 n3 0.987575
R5 n1 n5 0.98995
R6 n2 n3 0.980318
R7 n2 n6 0.992584
R8 n3 n7 1.001084
R9 n4 n5 0.98253
R10 n4 n6 1.001286
R11 n5 n7 1.012558
R12 n6 n7 1.002559
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
